US08895748B2
Preparation of 1-(5-bromopyridin-2-yl)ethanone
In a 3-neck 1000 ml round bottom flask, 2,5-dibromopyridine (10.0 g, 42.2 mmol) was dissolved in toluene (400 ml) and cooled to −40° C. (CH3CN/dry ice). 1.6 M of n-butyllithium in tetrahydrofuran (26.38 mL, 42.21 mmol) was slowly added to the cooled solution to form a deep reddish solution, which was stirred at −40° C. for 40 minutes. N,N-Dimethylacetamide (7.14 mL, 76.8 mmol) was added with no discernable change. The mixture was allowed to slowly warm to room temperature. Then, the mixture was quenched by adding 25 ml sat'd ammonium chloride. Added 100 ml H2O and extracted with EtOAc (250 ml). The organic phase was washed with water (200 ml). The combined aqueous phases were extracted with EtOAc (100 ml). The combined organic extracts were washed with brine, dried (Na2SO4), filtered and evaporated in vacuo to generate 6.31 g of a tan solid. 1H-NMR (CDCl3): δ 8.74 (d, J=1.9 Hz, 1H), 7.96 (m, 2H), 2.70 (s, 3H). HPLC: RT=3.237 min., 60 area % @ 210 nm; RT=3.238 min., 87 area % @254 nm. LCMS: MS (ESI—) for C8H7BrO m/z 201.0 (M+H)+.

reactant | 2,5-dibromopyridine | 42.2 mmol, 10.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | CH3CN dry ice | CC#N.C(=O)=O
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | tetrahydrofuran | 42.21 mmol, 26.38 mL | O1CCCC1 | C4H8O
reactant | N,N-Dimethylacetamide | 76.8 mmol, 7.14 mL | CN(C(C)=O)C | C4H9NO
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-bromopyridin-2-yl)ethanone | BrC=1C=CC(=NC1)C(C)=O | C7H6BrNO
